US05541180
A mixture of 2.6 g of (±)-N"-cyano-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)-methyl]amino]propyl]-N'-(1-methylethyl)guanidine in 20 ml of hydrochloric acid 6N was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated and the residue was dissolved in 10 ml of methanol. This solution was filtered and the filtrate was evaporated. The oily residue was dissolved in 10 ml of ethanol. The mixture was filtered and the filtrate was evaporated, yielding 1.32 g (44.4%) of (±)-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N'-(1-methylethyl)-guanidine dihydrochloride; mp. 97.5° C. (comp. 150).

reactant | (±)-N"-cyano-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)-methyl]amino]propyl]-N'-(1-methylethyl)guanidine | 2.6 g | C(#N)N=C(NCCCNCC1OC2=C(CC1)C=CC=C2)NC(C)C | C18H27N5O
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | (±)-N-[3-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]amino]propyl]-N'-(1-methylethyl)-guanidine dihydrochloride | 1.32 g, 44.4% | Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCCNC(=N)NC(C)C | InChI=1S/C17H28N4O.2ClH/c1-13(2)21-17(18)20-11-5-10-19-12-15-9-8-14-6-3-4-7-16(14)22-15;;/h3-4,6-7,13,15,19H,5,8-12H2,1-2H3,(H3,18,20,21);2*1H
